US03962291
A solution of 13 parts of 2-(6-methoxy-3,4-dihydro-1-naphthyl)-2-propen-1-yltrimethyl ammonium iodide in 200 parts by volume of methanol and 1 part of water is cooled to 0.5° and 4.5 parts of silver oxide is added. The resulting mixture is stirred for about 3 hours and the solid which forms is removed by filtration. At that time 5 parts of 2-ethylcyclopentane-1,3-dione is added to the filtrate. The resulting solution is concentrated to a small volume and 400 parts by volume of xylene together with 2 parts by volume of hexamethylphosphoramide and 5 parts by volume of triethylamine are added. That reaction mixture is slowly distilled to remove water and methanol, in the amount of approximately 50 parts by volume and the resultant mixture is heated at the reflux temperature for about 20 hours. After cooling that mixture is washed with water, 5% hydrochloric acid, water 5% aqueous sodium bicarbonate and the water again. Drying of that solution over anhydrous sodium sulphate followed by removal of the solvent under reduced pressure and crystallization of the resulting residue from methanol affords pure 2-(6-methoxy3,4-dihydro-1-naphthyl)-3-(2-ethylcyclopentane-1,3-dione-2-yl)propene, melting at about 100°-125°. This compound exhibits an ultraviolet absorption maxima at about 273 millimicrons with a molecular extinction coefficient of approximately 11,100.

reactant | 2-(6-methoxy-3,4-dihydro-1-naphthyl)-2-propen-1-yltrimethyl ammonium iodide | [I-].COC=1C=C2CCC=C(C2=CC1)C(C[N+](C)(C)C)=C
reactant | methanol | CO | CH4O
catalyst | silver oxide | [Ag]=O
solvent | water | O | H2O
product | 2-(6-methoxy3,4-dihydro-1-naphthyl)-3-(2-ethylcyclopentane-1,3-dione-2-yl)propene | COC=1C=C2CCC=C(C2=CC1)C(=C)CC1(C(CCC1=O)=O)CC | C21H24O3
